US04311651
A solution of 0.77 g (5 mmol) of 4-nitrobenzyl alcohol in 15 ml of methylene chloride was added dropwise over a period of 10 min to a stirred solution of 2.0 g (7.8 mmol) of 2,2,2-trifluoro-1-(trifluoromethyl)ethoxysulfur trifluoride in 5 ml of methylene chloride cooled to 10°. The reaction mixture was warmed to room temperature and then evaporated to dryness under reduced pressure. The residue was recrystallized from pentane to give 0.59 g (76% ) of 4-nitrobenzyl fluoride as colorless needles: mp 33° to 34°. Recrystallization from pentane raised the melting point to 36° to 37°.

reactant | 4-nitrobenzyl alcohol | 5 mmol, 0.77 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | 2,2,2-trifluoro-1-(trifluoromethyl)ethoxysulfur trifluoride | 7.8 mmol, 2.0 g | FC(C(OS(F)(F)F)C(F)(F)F)(F)F | C3HF9OS
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrobenzyl fluoride | 0.59 g, 76% | [N+](=O)([O-])C1=CC=C(CF)C=C1 | C7H6FNO2
